US09216980B2
Preparation of [1-(4-Bromobenzyl)-piperidin-4-yl]-dimethylamine
4-Bromobenzyl bromide (0.5 g, 2.0 mmol) was stirred with 4-dimethylaminopiperidine (0.51 g, 4.0 mmol) and triethylamine (0.42 mL, 3.0 mmol) in THF (20 mL) at ambient temperature for 96 h. The mixture was diluted with water (50 mL) and extracted with ethyl acetate (50 mL). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford the title compound (0.51 g, 86%). 1H NMR (CDCl3, 400 MHz): 7.44-7.40 (m, 2H), 7.21-7.16 (m, 2H), 3.43 (s, 2H), 2.91-2.85 (m, 2H), 2.27 (s, 6H), 2.17-2.07 (m, 1H), 2.00-1.91 (m, 2H), 1.80-1.72 (m, 2H), 1.58-1.45 (m, 2H).

reactant | 4-Bromobenzyl bromide | 2.0 mmol, 0.5 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 4-dimethylaminopiperidine | 4.0 mmol, 0.51 g | CN(C1CCNCC1)C | C7H16N2
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | [1-(4-Bromobenzyl)-piperidin-4-yl]-dimethylamine | 0.51 g, 86% | BrC1=CC=C(CN2CCC(CC2)N(C)C)C=C1 | C14H21BrN2
